US06867206B1
Preparing the Starting Compound 4-(1,4,5, 6-Tetrahydro-6-oxo-3-pyridazinyl)benzoyl chloride
10 mmol (2.2 g) of 4-(1,4,5,6-tetrahydro-6-oxo-3-pyridazinyl)benzoic acid are suspended in 50 ml of dichloromethane, after which 1.5 ml (20 mmol) of thionyl chloride are added and the mixture is stirred for 24 hours while being boiled gently.

reactant | 4-(1,4,5,6-tetrahydro-6-oxo-3-pyridazinyl)benzoic acid | 10 mmol, 2.2 g | O=C1CCC(=NN1)C1=CC=C(C(=O)O)C=C1 | C11H10N2O3
reactant | thionyl chloride | 20 mmol, 1.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(1,4,5, 6-Tetrahydro-6-oxo-3-pyridazinyl)benzoyl chloride | O=C1CCC(=NN1)C1=CC=C(C(=O)Cl)C=C1 | C11H9ClN2O2
